* Extracted by KLayout with GF180MCU LVS runset on : 10/09/2025 02:16

.SUBCKT opamp_n_input vss out v_11_7 viss v_16_12 vinn vinp v_2_4 ibias vg1
+ v_6_9 i_in v_17_16 v_3_1 vb2 vdd
M$1 i_in ibias ibias vdd pfet_03v3 L=1U W=3.5U AS=2.275P AD=2.275P PS=8.3U
+ PD=8.3U
M$2 v_17_16 ibias v_16_12 vdd pfet_03v3 L=1U W=3.5U AS=2.275P AD=2.275P PS=8.3U
+ PD=8.3U
M$3 vdd i_in vb2 vdd pfet_03v3 L=1U W=3.5U AS=2.275P AD=2.275P PS=8.3U PD=8.3U
M$4 vdd i_in i_in vdd pfet_03v3 L=1U W=3.5U AS=2.275P AD=2.275P PS=8.3U PD=8.3U
M$5 vdd i_in v_17_16 vdd pfet_03v3 L=1U W=3.5U AS=2.275P AD=2.275P PS=8.3U
+ PD=8.3U
M$6 vdd vg1 v_6_9 vdd pfet_03v3 L=0.8U W=25U AS=16.25P AD=16.25P PS=56.5U
+ PD=56.5U
M$8 vdd vg1 vg1 vdd pfet_03v3 L=0.8U W=25U AS=16.25P AD=16.25P PS=56.5U PD=56.5U
M$10 vdd v_6_9 out vdd pfet_03v3 L=0.5U W=77U AS=50.05P AD=50.05P PS=172.2U
+ PD=172.2U
M$30 out v_11_7 vss vss nfet_03v3 L=0.8U W=11U AS=6.71P AD=6.71P PS=24.44U
+ PD=24.44U
M$31 v_11_7 v_11_7 vss vss nfet_03v3 L=2U W=4.5U AS=2.745P AD=2.745P PS=10.22U
+ PD=10.22U
M$32 viss v_11_7 vss vss nfet_03v3 L=2U W=13.5U AS=8.235P AD=8.235P PS=30.66U
+ PD=30.66U
M$36 v_16_12 v_16_12 v_11_7 vss nfet_03v3 L=2U W=4.5U AS=2.745P AD=2.745P
+ PS=10.22U PD=10.22U
M$37 v_3_1 vinn viss vss nfet_03v3 L=1U W=3U AS=1.83P AD=1.83P PS=7.22U PD=7.22U
M$38 v_2_4 vinp viss vss nfet_03v3 L=1U W=3U AS=1.83P AD=1.83P PS=7.22U PD=7.22U
M$39 v_3_1 vb2 vg1 vss nfet_03v3 L=1U W=30U AS=18.3P AD=18.3P PS=67.32U
+ PD=67.32U
M$42 v_2_4 vb2 v_6_9 vss nfet_03v3 L=1U W=30U AS=18.3P AD=18.3P PS=67.32U
+ PD=67.32U
M$45 vb2 vb2 viss vss nfet_03v3 L=4U W=2U AS=1.22P AD=1.22P PS=5.22U PD=5.22U
C$52 v_2_4 \$44 1.2e-12 cap_mim_2f0_m5m6_noshield A=600P P=98U
.ENDS opamp_n_input
